US07479502B2
3-Bromo4-methoxybenzonitrile (3.0 g, 14.2 mmol, 1.0 eq) was dissolved in anhydrous tetrahydrofuran (10 mLs). The solution cooled at −10° C. and stirred while isopropylmagnesium chloride (17.7 mmol, 8.8 mLs, 2.0 M in THF, 1.25 eq.) was added. The mixture was stirred for 1 hour and then trimethyl borate (1.87 g, 17.7 mmol, 2.0 mL) was added dropwise. The mixture was allowed to warm slowly to room temperature for 1 hour. The solvent was evaporated and the residue was partitioned between 5% citric acid and ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated to a minimum volume under reduced pressure. The residue was recrystallized from hexanes to give 5-cyano-2-methoxybenzeneboronic acid (2.48 g, 99%) as a fluffy white powder.

reactant | 3-Bromo4-methoxybenzonitrile | 14.2 mmol, 3.0 g, 1.0 eq | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
reactant | isopropylmagnesium chloride | 17.7 mmol, 2.0 M, 8.8 mLs, 1.25 eq. | C(C)(C)[Mg]Cl
reactant | trimethyl borate | 17.7 mmol, 2.0 mL, 1.87 g | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 10 mLs | O1CCCC1 | C4H8O
product | 5-cyano-2-methoxybenzeneboronic acid | 2.48 g, 99% | C(#N)C=1C=CC(=C(C1)B(O)O)OC | C8H8BNO3
